US06153641
A mixture of 4-bromo-3-bromomethyl-benzonitrile (2.66 g, 9.7 mmol), indoline (1.14 mL, 10.2 mmol) and triethylamine (1.60 mL, 11.5 mmol) was heated at reflux for 18 h in dry tetrahydrofuran (50 mL). The flask was cooled and ether (100 mL) was added. Evaporation gave crude 4-bromo-3-(2,3-dihydro-indol-1-ylmethyl)-benzonitrile.

reactant | 4-bromo-3-bromomethyl-benzonitrile | 9.7 mmol, 2.66 g | BrC1=C(C=C(C#N)C=C1)CBr | C8H5Br2N
reactant | indoline | 10.2 mmol, 1.14 mL | N1CCC2=CC=CC=C12 | C8H9N
reactant | triethylamine | 11.5 mmol, 1.60 mL | C(C)N(CC)CC | C6H15N
reactant | ether | 100 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-bromo-3-(2,3-dihydro-indol-1-ylmethyl)-benzonitrile | BrC1=C(C=C(C#N)C=C1)CN1CCC2=CC=CC=C12 | C16H13BrN2
